US09284271B2
A mixture of phenylboronic acid (0.022 g; 0.179 mmol), 6-chloro-N-(2-(5-chloro-1H-indol-3-yl)ethyl)pyridazine-3-carboxamide (0.050 g; 0.149 mmol), [1,1′-Bis(diphenylphosphino)ferrocene]palladium(II) chloride (0.012 g; 0.015 mmol), sodium iodide (0.044 g; 0.298 mmol) and sodium carbonate (0.032 g; 0.298 mmol) in dimethoxyethane (3 mL) and water (1 mL) was irradiated in the microwave oven at 130° C. for 15 minutes. The resulting solution was reported between water and ethyl acetate and the organic layer was concentrated under reduced pressure. The crude material was purified by flash chromatography on silica gel (eluent 20 to 80% ethyl acetate in heptane) to afford 0.0038 g (7%) of N-(2-(5-chloro-1H-indol-3-yl)ethyl)-6-phenylpyridazine-3-carboxamide as a white solid.

reactant | phenylboronic acid | 0.179 mmol, 0.022 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 6-chloro-N-(2-(5-chloro-1H-indol-3-yl)ethyl)pyridazine-3-carboxamide | 0.149 mmol, 0.050 g | ClC1=CC=C(N=N1)C(=O)NCCC1=CNC2=CC=C(C=C12)Cl | C15H12Cl2N4O
reactant | sodium iodide | 0.298 mmol, 0.044 g | [I-].[Na+]
reactant | sodium carbonate | 0.298 mmol, 0.032 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethoxyethane | 3 mL | C(OC)COC | C4H10O2
solvent | water | 1 mL | O | H2O
catalyst | [1,1′-Bis(diphenylphosphino)ferrocene]palladium(II) chloride | 0.015 mmol, 0.012 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2-(5-chloro-1H-indol-3-yl)ethyl)-6-phenylpyridazine-3-carboxamide | 0.0038 g, 7% | ClC=1C=C2C(=CNC2=CC1)CCNC(=O)C=1N=NC(=CC1)C1=CC=CC=C1 | C21H17ClN4O
